US05672586
To a cooled solution (0°) of 4,4-dimethyl-3-pentanone (106 g, 0.928 mol) and (R)-α-methylbenzylamine (111 g, 0.916 mol) in benzene (1 L), a solution of TiCl4 (50.5 mL, 0.461 mol) in benzene (200 mL) was added at a rate that kept the temperature of the mixture below 10°. Thereafter, the mixture was stirred mechanically for 3 h at 40°, cooled to room temperature (20°-22°) and filtered through diatomaceous earth. The diatomaceous earth was washed with Et2O. The combined filtrate and wash was concentrated. The residue was dissolved in dry MeOH (2 L). The solution was cooled to 0° and NaBH4 (20 g, 0.53 mol) was added portionwise while maintaining the temperature of the mixture below 5°. The methanol was evaporated. The residue was dissolved in Et2O. The solution was washed with brine, dried (MgSO4) and concentrated to give a reddish oil (a 18:1 mixture of diastereoisomers as indicated by NMR). The oil was purified by flash chromatography (SiO2, eluent: EtOAc/hexane, 7:93) to afford N-(1(R)-phenylethyl)-1(R)-ethyl-2,2-dimethylpropylamine as a liquid (110 g, 54% yield). This material was dissolved in hexane (1.5 L). 1N HCl in E2O (550 mL) was added to the solution over a period of 15 min. The resulting white solid was collected on a filter and then washed with hexane to provide N-(1(R)-phenylethyl)-1(R)-ethyl-2,2-dimethylpropylamine hydrochloride (125 g, 97% yield). 1H NMR(CDCl3) δ7.79-7.74 (m, 2H), 7.48-7.30 (m, 3H), 4.49-4.31 (m, 1H), 2.44-2.36 (m, 1H), 2.23 (d, J=6.5 Hz, 3H), 1.95-1.54 (m, 2H), 1.14 (s, 9H), 0.55 (t, J=7.5 Hz, 3H).

reactant | 4,4-dimethyl-3-pentanone | 0.928 mol, 106 g | CC(C(CC)=O)(C)C | C7H14O
reactant | (R)-α-methylbenzylamine | 0.916 mol, 111 g | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | NaBH4 | 0.53 mol, 20 g | [BH4-].[Na+]
solvent | benzene | 1 L | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
catalyst | TiCl4 | 0.461 mol, 50.5 mL | Cl[Ti](Cl)(Cl)Cl
product | N-(1(R)-phenylethyl)-1(R)-ethyl-2,2-dimethylpropylamine | 110 g, 54% yield | C1(=CC=CC=C1)[C@@H](C)N[C@@H](C(C)(C)C)CC | C15H25N
